US04921887
A stirred mixture of 2-amino-4-chloromethylthiazole hydrochloride (0.7 g), 4-(diphenylmethoxy)piperidine (0.78 g) and triethylamine (1.82 ml) in N,N-dimethylformamide (7.8 ml) was heated at 40° C. to 45° C. for 5 hours. After cooling to ambient temperature, the reaction mixture was filtered. The filtrate was poured into water (50 ml) and extracted with ethyl acetate (80 ml×2). The extract was washed with a saturated aqueous solution of sodium chloride (30 ml) and dried over magnesium sulfate. The solvent was distilled off and the residue was subjected to column chromatography on silica gel (30 g) and eluted with a mixture of chloroform and methanol (10:1 V/V). The fractions containing the object compound were combined and concentrated under reduced pressure to give 2-amino-4-[4-(diphenylmethoxy)piperidinomethyl]thiazole (0.78 g).

reactant | 2-amino-4-chloromethylthiazole hydrochloride | 0.7 g | Cl.NC=1SC=C(N1)CCl
reactant | 4-(diphenylmethoxy)piperidine | 0.78 g | C1(=CC=CC=C1)C(OC1CCNCC1)C1=CC=CC=C1 | C18H21NO
reactant | triethylamine | 1.82 ml | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 7.8 ml | CN(C=O)C | C3H7NO
product | 2-amino-4-[4-(diphenylmethoxy)piperidinomethyl]thiazole | 0.78 g | NC=1SC=C(N1)CN1CCC(CC1)OC(C1=CC=CC=C1)C1=CC=CC=C1 | C22H25N3OS
